Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2][H:3].[O:4]=[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],0.82218211983
[O:1]=[C:2]([H:3])[C:4]([H:5])([C:6]([H:7])[H:8])[C:9](=[O:10])[H:11]>>[H:5].[O:1]=[C:2]([H:3])[C:4](=[C:6]([H:7])[H:8])[C:9](=[O:10])[H:11],1.43589081285
[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8]>>[H:1][O:2][C:3]#[C:4].[O:5]=[C:6]([H:7])[H:8],1.4282409771200002
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:5],4.13106030051
[C:7]([H:8])([H:9])=[C:10]=[C:11]([H:12])[H:13].[O:1]=[C:2][C:3]([H:4])([H:5])[H:6]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-0.978485988579
[C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11].[H:1]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],-5.46507203447
[C:2]#[C:6][C:7][C:8]([H:9])[H:10].[H:1][C:5]([H:3])=[C:4]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]#[C:7][C:8]([H:9])[H:10],-5.771893232409999
[H:1][C:2][C:13]([C:10]([C:7]([C:5](=[C:3][H:4])[H:6])([H:8])[H:9])([H:11])[H:12])([H:14])[H:15]>>[H:1][C:2]1[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15],-5.939247463919999
[H:1][O:2][C@:3]([H:4])([C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:10]([H:11])([H:12])=[C:13]([H:14])[H:15].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9],-1.33951827567
[C:6](\[H:7])(=[C:8](/[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.1507333469499998
[H:1][O:2][C@:3]1([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]1([H:11])[H:12]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:10]([C:9])([H:11])[H:12],3.66289881292
[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])=[C:12][H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14],-5.13013067252
[C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14],-4.69414645264
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1].[O:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],1.97154312504
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:8][C:9]([H:10])[H:11].[H:7],4.5724546657800005
[H:1][O:2][C:3].[O:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-1.1567253999999998
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[O:11][H:12]>>[C:9]([H:10])[O:11][H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8],5.808446147180001
[H:1].[O:2]=[C:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9],-1.97662411438
[C:16]([H:17])([H:18])[H:19].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19],-3.87081678267
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9],3.52369362165
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:7],4.3135081885
[H:1][O:2][C:3]([H:4])[H:5].[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.58901851621
[C:5]([H:6])[H:7].[H:1][C:2](=[C:3][H:4])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-6.42386142727
[C:6]([H:7])([H:8])=[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4]=[O:5]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],2.97601957486
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6],1.76644458009
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:7]#[C:8][O:9][H:10].[H:6],2.73460569205
